US06531502B1
N-{3-[3-Cyclohexyl-4-(2-morpholin-4-ylethoxy)-benzylidene]-2-oxo-2,3-dihydro-1H-indol-6-yl}-acetamide
A mixture of 3-cyclohexyl-4-morpholinoethoxybenzaldehyde (3 g, 9.45 mmol), 6-acetamido-2-oxindole (3.5 g, 18.9 mmol) and piperidine (5 ml, 50 mmol) in ethanol (35 ml) was held in a sealed tube at 100° C. for 6 hours. The reaction mixture was cooled, diluted with ethyl acetate (500 ml) and filtered to remove excess 6-acetamido-2-oxindole. The filtrate was extracted with 0.5N hydrochloric acid (200 ml) and brine (2×200 ml). The acid wash was basified with solid sodium bicarbonate to pH 9 and extracted with ethyl acetate (2×200 ml). The combined organic layers were washed with brine (200 ml), dried over magnesium sulfate and concentrated. The combined solids were dissolved in dichloromethane (25 ml) and precipitated with diethyl ether (500 ml) to afford 1.6 g of a mustard yellow solid. The solid was dissolved in methanol (100 ml) and filtered, affording a yellow solid (which was set aside) and then precipitated with water (400 ml) and filtered. The solid residue was redissolved in methanol and concentrated to a solid. This process was repeated twice to afford ˜82% pure isomer 1 by HPLC. The filtered yellow solid was 77% isomer 2 by HPLC.

reactant | 3-cyclohexyl-4-morpholinoethoxybenzaldehyde | 9.45 mmol, 3 g | C1(CCCCC1)C=1C=C(C=O)C=CC1OCCN1CCOCC1 | C19H27NO3
reactant | 6-acetamido-2-oxindole | 18.9 mmol, 3.5 g | C(C)(=O)NC1=CC=C2CC(NC2=C1)=O | C10H10N2O2
reactant | piperidine | 50 mmol, 5 ml | N1CCCCC1 | C5H11N
solvent | ethanol | 35 ml | C(C)O | C2H6O
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | N-{3-[3-Cyclohexyl-4-(2-morpholin-4-ylethoxy)-benzylidene]-2-oxo-2,3-dihydro-1H-indol-6-yl}-acetamide | 1.6 g | C1(CCCCC1)C=1C=C(C=C2C(NC3=CC(=CC=C23)NC(C)=O)=O)C=CC1OCCN1CCOCC1 | C29H35N3O4
